US08895547B2
(3-Benzyloxyphenyl)methanesulfonyl chloride
Under inert gas, 2.36 g of (3-benzyloxyphenyl)methanesulfonic acid sodium salt and 0.61 ml of N,N-dimethylformamide were initially charged in 45 ml of THF, then, at a temperature of −20° C., 4.1.73 ml of oxalyl chloride were added dropwise and the reaction solution was allowed to come to 0° C. within 15 minutes. The reaction solution was diluted with 100 ml of diethyl ether and washed with water, dilute aqueous sodium hydrogencarbonate solution and saturated sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The residue (2.30 g) was used in the next reaction without further purification.

reactant | (3-benzyloxyphenyl)methanesulfonic acid sodium salt | 2.36 g | [Na+].C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)[O-]
reactant | N,N-dimethylformamide | 0.61 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (3-Benzyloxyphenyl)methanesulfonyl chloride | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)Cl | C14H13ClO3S
